US06992085B2
Step A: 3-(4-Bromobutoxy)benzonitrile
The procedure is as for Example 53, Step A, using as substrate 3-hydroxybenzonitrile and 1,4-dibromobutane.

reactant | 3-hydroxybenzonitrile | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 3-(4-Bromobutoxy)benzonitrile | BrCCCCOC=1C=C(C#N)C=CC1 | C11H12BrNO
